US08003800B2
A mixture of acetylacetone (2.5 g, 25 mmol), K2CO3 (3.45 g, 25 mmol) and 3-bromo-2-methylpropene (2.5 mL, 25 mmol) in acetone (80 mL) is stirred at 50° C. for 3 days. The mixture is filtered, the filtercake washed with few acetone and the filtrate evaporated to give 2.48 g of 3-(2-methyl-allyl)-pentane-2,4-dione as a dark oil that is used without further purification in subsequent steps; LC-MS: tR=0.87 min, [M+1]+=155.26.

reactant | acetylacetone | 25 mmol, 2.5 g | C(C)(=O)CC(C)=O | C5H8O2
reactant | K2CO3 | 25 mmol, 3.45 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-bromo-2-methylpropene | 25 mmol, 2.5 mL | BrCC(=C)C | C4H7Br
solvent | acetone | 80 mL | CC(=O)C | C3H6O
product | 3-(2-methyl-allyl)-pentane-2,4-dione | 2.48 g | CC(CC(C(C)=O)C(C)=O)=C | C9H14O2
